US07064219B2
To 10 ml of water in which were dissolved 3.18 g of potassium hydroxide, were added 1.0 g (5.55 mmol) of 4-hydroxyphenylpyruvic acid and 2.2 g (16.7 mmol) of oxalacetic acid, for reaction at ambient temperature for 72 hours (about pH 13 at the start of the reaction). Hydroxylamine hydrochloride salt of 1.54 g (22.2 mmol) was added to the reaction solution, for reaction at ambient temperature for 10 hours. The reaction solution was then adjusted to pH 2.6, using 6N hydrochloric acid, for extraction using ethyl acetate. The organic layer was rinsed with aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate and concentrated to dryness, to obtain 0.7 g (2.47 mmol) of 4-hydroxy-4-(4-hydroxyphenylmethyl)-2-hydroxyiminoglutaric acid as a crude product. Further, the crude product was recrystallized in methanol and toluene, to obtain 0.22 g (0.78 mmol) of 4-hydroxy-4-(4-hydroxyphenylmethyl)-2-hydroxyiminoglutaric acid in crystal. (NMR Measurement)

reactant | 4-hydroxyphenylpyruvic acid | 5.55 mmol, 1.0 g | OC1=CC=C(C=C1)CC(C(=O)O)=O | C9H8O4
reactant | oxalacetic acid | 16.7 mmol, 2.2 g | C(CC(=O)C(=O)O)(=O)O | C4H4O5
reactant | Hydroxylamine hydrochloride salt | Cl.NO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | potassium hydroxide | 3.18 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
product | 4-hydroxy-4-(4-hydroxyphenylmethyl)-2-hydroxyiminoglutaric acid | 2.47 mmol, 0.7 g | OC(CC(C(=O)O)=NO)(C(=O)O)CC1=CC=C(C=C1)O | C12H13NO7
